* Extracted by KLayout with SG13G2 LVS runset on : 01/03/2026 20:35

.SUBCKT decap CTRL VDD VOUTDN VOUTDP
M$1 CTRL VOUTDN CTRL VDD sg13_lv_pmos L=0.13u W=32u AS=6.68p AD=6.08p PS=49.36u
+ PD=44.16u
M$9 CTRL VOUTDP CTRL VDD sg13_lv_pmos L=0.13u W=32u AS=6.08p AD=6.68p PS=44.16u
+ PD=49.36u
.ENDS decap
